US07435837B2
Treatment of (±)-{7-[3-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate (5.2 g, 11.57 mmol) with sodium azide (3.01 g, 46.3 mmol) generally according to the procedure described for Intermediate 98 gave (±)-2-(azidomethyl)-7-[3-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.375 g, 10 wt. %) generally according to the procedure described for Example 1 provided 2.64 g (69%) of (±)-1-{7-[3-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methanamine as a white solid, hydrochloride salt. mp 172-174° C.; Anal. calcd. for C16H14F3NOHCl: C, 58.28; H, 4.59; N, 4.25. Found: C, 58.09; H, 4.6; N, 4.03.

reactant | (±)-{7-[3-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate | 11.57 mmol, 5.2 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC(=CC=C2)C(F)(F)F | C23H19F3O4S
reactant | sodium azide | 46.3 mmol, 3.01 g | [N-]=[N+]=[N-].[Na+]
product | (±)-2-(azidomethyl)-7-[3-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=CC(=CC=C2)C(F)(F)F | C16H12F3N3O
